### PR TITLE
Lemma Forest.𝓘_le_𝓘

### PR DESCRIPTION
**Pull request by lakesare**
This PR adds `s p ≤ s u` result to the `Forest.if_descendant_then_subset` lemma as discussed [here](https://leanprover.zulipchat.com/#narrow/channel/442935-Carleson/topic/lemma.207.2E7.2E4).

### CODE REVIEW

File: Carleson/Forest.lean [hunk 1]
```diff
@@ -72,11 +72,15 @@ lemma ball_subset_of_mem_𝓘 (hu : u ∈ t) {p : 𝔓 X} (hp : p ∈ t u) {x :
   refine (ball_subset_ball' ?_).trans (t.ball_subset hu hp)
   linarith [show dist x (𝔠 p) < 4 * D ^ (𝔰 p) from Grid_subset_ball hx]
 
-lemma if_descendant_then_subset (hu : u ∈ t) (hp : p ∈ t u) : (𝓘 p : Set X) ⊆ 𝓘 u := by
-  calc ↑(𝓘 p)
+lemma if_descendant_then_le (hu : u ∈ t) (hp : p ∈ t u) : 𝓘 p ≤ 𝓘 u := by
```
Comment (fpvandoorn) [inline Carleson/Forest.lean:75]:
```suggestion
lemma 𝓘_le_𝓘 (hu : u ∈ t) (hp : p ∈ t u) : 𝓘 p ≤ 𝓘 u := by
```

Comment (lakesare) [reply Carleson/Forest.lean:75]: I think it should be `𝓘_ne_𝓘'`, similar to `Forest.𝓘_ne_𝓘'`?

Comment (lakesare) [reply Carleson/Forest.lean:75]: Ah we also have `lemma 𝓘_ne_𝓘`

**Comment by lakesare** [comment]
Can be merged now
